US05106871
Then, 2.8 g of 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(3,5-dimethoxy-4-methoxymethoxyphenyl)-1-propanone was dissolved in 4 ml of methanol, and 4 ml of hydrochloric acid/methanol was added to the solution and the mixture was heated and refluxed for 10 minutes. After the reaction, the solvent was removed from the reaction mixture by distillation, and the obtained solid was dissolved in a small amount of ethyl acetate and crystallized from diethyl ether/hexane to obtain 1.9 g (yield=75%) of 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-hydroxy-3,5-dimethoxyphenyl)-1-propanone in the form of a cotton-like crystal.

reactant | 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(3,5-dimethoxy-4-methoxymethoxyphenyl)-1-propanone | 2.8 g | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC(=C(C(=C1)OC)OCOC)OC)=O)OCC(=O)OC)CCC(C)C | C29H40O10
reactant | hydrochloric acid methanol | 4 ml | Cl.CO
solvent | methanol | 4 ml | CO | CH4O
product | 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-hydroxy-3,5-dimethoxyphenyl)-1-propanone | 1.9 g, yield=75% | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC(=C(C(=C1)OC)O)OC)=O)OCC(=O)OC)CCC(C)C | C27H36O9
